US09056866B2
A mixture of 5-tert-butyl-7-(3,3-difluoro-pyrrolidin-1-yl)-3-(4-methoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine (264 mg, 656 μmol) and TFA (5.0 mL) was refluxed for 8 h under N2 atmosphere. The reaction mixture was concentrated in vacuo to afford crude to 5-tert-butyl-7-(3,3-difluoropyrrolidin-1-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine. The residue was used for the next reaction without further purification.

reactant | 5-tert-butyl-7-(3,3-difluoro-pyrrolidin-1-yl)-3-(4-methoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 656 μmol, 264 mg | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC2=CC=C(C=C2)OC)N2CC(CC2)(F)F | C20H24F2N6O
reactant | TFA | 5.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-tert-butyl-7-(3,3-difluoropyrrolidin-1-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine | C(C)(C)(C)C=1N=C(C2=C(N1)NN=N2)N2CC(CC2)(F)F | C12H16F2N6
